US06255496B1
A solution of 3-[4-[2-(dodecylthio)ethoxy]phenyl]propanoic acid (14.13 g, 35.8 mmol) in dichloromethane (400 ml) was treated with oxalyl chloride (6.5 ml) and a drop of N,N-dimethylformamide and the resulting mixture was stirred at 22° C. for 1 h. The solvent and excess reagent were evaporated under reduced pressure and the residue was dissolved in dry dichloromethane (200 ml). This solution was added to a cold (0° C.) solution of trifluoroacetic anhydride (19.2 ml, 0.107 mol) in dichloromethane (200 ml). Then pyridine (6.1 ml, 75.4 mmol) was added dropwise and the resulting solution was stirred at 0° C. for 30 min and then at 22° C. for 2 h. Water (50 ml) was added and the mixture was stirred for another 30 min. The organic phase was then washed with brine, dried and concentrated under reduced pressure. Chromatography on silica gel (elution with a gradient of ethyl acetate 0-10% in toluene) gave 10.50 g (66%) of 4-[4-[2-(dodecylthio)ethoxy]phenyl]-1,1,1-trifluoro-2-butanone as an amorphous solid.

reactant | 3-[4-[2-(dodecylthio)ethoxy]phenyl]propanoic acid | 35.8 mmol, 14.13 g | C(CCCCCCCCCCC)SCCOC1=CC=C(C=C1)CCC(=O)O | C23H38O3S
reactant | oxalyl chloride | 6.5 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | trifluoroacetic anhydride | 0.107 mol, 19.2 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | pyridine | 75.4 mmol, 6.1 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
solvent | Water | 50 ml | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-[4-[2-(dodecylthio)ethoxy]phenyl]-1,1,1-trifluoro-2-butanone | 10.50 g, 66% | C(CCCCCCCCCCC)SCCOC1=CC=C(C=C1)CCC(C(F)(F)F)=O | C24H37F3O2S
